US07375120B2
Preparation 3. 2-Hydroxymethylheptanoic acid, benzyloxyamide
To a solution of 2-benzyloxycarbamoylheptanoic acid, ethyl ester (12.29 g, 39.98 mmol) in THF (400 mL)) was added LiBH4 (8.70 g, 399.8 mmol) at room temperature. The resulting mixture was stirred at room temperature overnight. Ice-water (500 mL) was then added to the reaction mixture (warning: vigorous evolution of gas). The aqueous layer was extracted with EtOAc (400 mL×2). The organic extracts were washed with water, brine, and dried over MgSO4. After removing the solvent under reduced pressure, flash column chromatography (hexane:EtOAc 1/2) yielded 5.36 g (51%) of the title compound. 1H NMR (400 MHz, CHCl) δ 9.22 (br s, 1H), 7.41–7.28 (m, 5H), 4.89 (q, J=10.6 Hz, 2H), 3.70–3.37 (m, 3H), 2.17 (m, 1H). 1.54 (br s, 1H), 1.27 (m, 6H), 0.88 (t, J=6.9 Hz). MH+ 266.

reactant | 2-benzyloxycarbamoylheptanoic acid, ethyl ester | 39.98 mmol, 12.29 g | C(C1=CC=CC=C1)ONC(=O)C(C(=O)OCC)CCCCC | C17H25NO4
reactant | LiBH4 | 399.8 mmol, 8.70 g | [Li+].[BH4-]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 2-Hydroxymethylheptanoic acid, benzyloxyamide | 5.36 g, 51% | C(C1=CC=CC=C1)ONC(C(CCCCC)CO)=O | C15H23NO3
